US09193693B2
A solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), 1-(3-chlorophenyl)piperazine (172.5 mg, 0.88 mmol, 2.00 equiv), and DIEA (170.3 mg, 1.32 mmol, 3.00 equiv) in DMF (4 mL) was placed in a 20-mL sealed tube and stirred overnight at 100° C. in an oil bath, then quenched with water. The resulting solution was extracted with 6×20 mL of ethyl acetate, the organic layers combined and dried over anhydrous sodium sulfate, filtered to remove solids, and concentrated under vacuum. Purification via silica gel column (PE/EA (30:1)) yielded 186.7 mg (89%) of methyl 3-(4-(3-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 1-(3-chlorophenyl)piperazine | 0.88 mmol, 172.5 mg, 2.00 equiv | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | DIEA | 1.32 mmol, 170.3 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | methyl 3-(4-(3-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | 186.7 mg, 89% | ClC=1C=C(C=CC1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C26H23ClN4O2
